US07265246B2
Combine methyl-4-bromobenzoate (1.0 g, 4.65 mmol), 2-chlorophenylboronic acid (799 mg, 5.1 mmol), Pd(OAc)2 (51 mg, 0.46 mmol) and sodium carbonate (1.5 g, 13.9 mmol) in dimethylformamide (20 mL) and water (2.0 mL) with stirring. Purge the reaction mixture with argon, add triphenylphosphine (61 mg, 0.23 mmol) and purge again with argon. Place the sealed reaction in an oil bath maintained at 80° C. and allow to stir for 1 hour. Cool the reaction to room temperature, dilute with ethyl acetate and filter through a short plug of celite with additional ethyl acetate. Wash the organics with water, dry over magnesium sulfate, filter and evaporate. Purification by flash column chromatography yields 2′-chlorobiphenyl-4-carboxylic acid methyl ester as a yellow solid. Dissolve the purified ester in tetrahydrofuran (0.25M) and add an equal volume of 1M sodium hydroxide. Stir vigorously at room temperature for 15 hours. Upon completion, acidify the reaction with conc. HCl and extract with ethyl acetate. Evaporation of the solvent yields 762 mg (67%) of the title compound. MS (m/e): 231.1 (M−).

reactant | methyl-4-bromobenzoate | 4.65 mmol, 1.0 g | COC(C1=CC=C(C=C1)Br)=O | C8H7BrO2
reactant | 2-chlorophenylboronic acid | 5.1 mmol, 799 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 13.9 mmol, 1.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 0.23 mmol, 61 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 2.0 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OAc)2 | 0.46 mmol, 51 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2′-chlorobiphenyl-4-carboxylic acid methyl ester | COC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C14H11ClO2
